US06110934
5-Amino-2-propyl-1,2,3,4-tetrahydroisoquinoline
The title compound was prepared by treatment of 5-aminoisoquinoline with iodopropane followed by reduction with sodium borohydride using procedures analogous to those described in Preparation 1 and Preparation 2.

reactant | 5-aminoisoquinoline | NC1=C2C=CN=CC2=CC=C1 | C9H8N2
reactant | iodopropane | ICCC | C3H7I
reactant | sodium borohydride | [BH4-].[Na+]
product | 5-Amino-2-propyl-1,2,3,4-tetrahydroisoquinoline | NC1=C2CCN(CC2=CC=C1)CCC | C12H18N2
